US07067510B2
Dissolve 6-(2-hydroxy-benzyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol (80 mg, 0.17 mmol) in HCl solution (20% 1M aq. HCl in THF). Stir at r.t. for 2 h and warm gently for 10 min. Dilute with CH2Cl2, wash with sat. NaHCO3, water and brine, dry over MgSO4, filter and concentrate. Purify the crude product by flash chromatography (0–5% (2M NH3 in MeOH)/CH2Cl2) to afford 13-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-7,13-dihydro-12-oxa-benzo[4,5]cyclohepta[1,2-a]naphthalen-3-ol (43 mg, 56%).

reactant | 6-(2-hydroxy-benzyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol | 0.17 mmol, 80 mg | OC1=C(CC=2C(=C3C=CC(=CC3=CC2)O)C(C2=CC=C(C=C2)OCCN2CCCCC2)O)C=CC=C1 | C31H33NO4
solvent | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 13-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-7,13-dihydro-12-oxa-benzo[4,5]cyclohepta[1,2-a]naphthalen-3-ol | 43 mg, 56% | N1(CCCCC1)CCOC1=CC=C(C=C1)C1OC2=C(CC3=C1C=1C=CC(=CC1C=C3)O)C=CC=C2 | C31H31NO3
